US08076482B2
Preparation of intermediate racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of E/Z-6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (1.5 g, 2.9 mmol) and 1-(4,5-difluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (13 mmol) in toluene (13 mL) was heated at 60° C. for 3 h, and concentrated in vacuo. To the residue was added DCM (30 mL) and TFA (5 mL), and the resultant solution was stirred at room temperature for 3 h, then concentrated in vacuo. The residue was partitioned between ethyl acetate and aqueous diluted NaOH solution. The organic layer was washed with water to neutral, dried over anhydrous Na2SO4, and concentrated. The residue was purified by flash chromatography to give the title compound as white solid (60 mg).

reactant | Z-6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.9 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O | C25H25Cl2NO6
reactant | 1-(4,5-difluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 13 mmol | FC1=CC(=C(C=C1F)C=NC(=C)O[Si](C)(C)C)C | C13H17F2NOSi
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(4,5-difluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 60 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O)C1=C(C=C(C(=C1)F)F)C)=O | C30H26Cl2F2N2O5
